US09388308B2
(1-(3-Aminopropyl)imidazole hexamethylene diisocyanate adduct)
A three-neck flask equipped with a condenser, a dropping funnel and a thermocouple and placed on a mantle heater, was charged with 50 g (0.4 mole) of 1-(3-aminopropyl)imidazole and 250 mL of acetonitrile. Then, the solution mixture was heated to 70 to 80° C. To the solution mixture, 33.6 g (0.2 mole) of hexamethylene diisocyanate dissolved in 50 mL of acetonitrile was added dropwise to generate a white precipitate. After completion of addition, the mixture was stirred at 70 to 80° C. for one hour and then cooled to room temperature. The white solid substance was filtered and washed with acetonitrile to obtain an imidazole-isocyanate adduct (hereinafter simply referred to as A-1).

reactant | 1-(3-aminopropyl)imidazole | 0.4 mole, 50 g | NCCCN1C=NC=C1 | C6H11N3
reactant | hexamethylene diisocyanate | 0.2 mole, 33.6 g | C(CCCCCN=C=O)N=C=O | C8H12N2O2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
product | 1-(3-Aminopropyl)imidazole hexamethylene diisocyanate | C(CCCCCN=C=O)N=C=O.NCCCN1C=NC=C1 | InChI=1S/C8H12N2O2.C6H11N3/c11-7-9-5-3-1-2-4-6-10-8-12;7-2-1-4-9-5-3-8-6-9/h1-6H2;3,5-6H,1-2,4,7H2
